US04360680
3-Amino-4-methyl-1-phenyl-2-pyrazoline
A 2.0 g. amount of sodium metal is dissolved in 200 ml. of absolute ethanol, then 37.4 g. of phenylhydrazine is added followed in 10 minutes by 20.1 g. of methacrylonitrile. The reaction mixture is refluxed for 4 hours then is evaporated to near dryness in vacuo. Water is added to the residue to separate an oil. The oil crystallizes on standing. The solid is dissolved in dichloromethane. The solution is passed through a short column of a hydrous magnesium silicate. The column effluent is evaporated to give an oil. The oil is crystallized from acetone-hexane then is recrystallized from the same solvent pair to give 20.88 g. of the desired product as colorless crystals, m.p. 83°-84° C.

reactant | sodium | [Na] | Na
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-4-methyl-1-phenyl-2-pyrazoline | NC1=NN(CC1C)C1=CC=CC=C1 | C10H13N3
